US05604229
(5) 2-(4-Octylphenyl)ethyl iodide
Sodium iodide (18.13 g) was added to a solution (500 ml) of the above-mentioned compound (31.5 g) in 2-butanone and the mixture was refluxed under heating for 4 hours. The reaction mixture was concentrated and poured into ice water. The resultant mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was distilled away and the residue obtained was purified by silica gel column chromatography (eluent; ethyl acetate: hexane=1:20) to give 27.5 g of the subject compound as an oily substance (yield 80%).

reactant | Sodium iodide | 18.13 g | [I-].[Na+]
reactant | 2-butanone | CC(CC)=O | C4H8O
product | 2-(4-Octylphenyl)ethyl iodide | 27.5 g, yield 80% | C(CCCCCCC)C1=CC=C(C=C1)CCI | C16H25I
